US06995263B2
70 mg (0.15 mmol) (5-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-amino}-indol-1-yl)-acetic acid methyl ester and 0.3 ml 1N lithium hydroxide solution were stirred for 2 h in 0.5 ml THF at RT. To the reaction mixture was added 0.6 ml 1N HCl and then the mixture was taken up in AcOEt and washed with water. The crude product was suspended in ether/heptane 1:19. The resulting crystals were filtered off to provide 47 mg of pure (5-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-amino}-indol-1-yl)-acetic acid.

reactant | (5-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-amino}-indol-1-yl)-acetic acid methyl ester | 0.15 mmol, 70 mg | COC(CN1C=CC2=CC(=CC=C12)N(CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C25H23F3N4O2
reactant | lithium hydroxide | 1N, 0.3 ml | [OH-].[Li+]
reactant | HCl | 1N, 0.6 ml | Cl | ClH
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (5-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-ylmethyl]-amino}-indol-1-yl)-acetic acid | 47 mg | CN(C=1C=C2C=CN(C2=CC1)CC(=O)O)CC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C | C24H21F3N4O2
